data/polar.json
{"reaction_name": "Mozingo reduction", "rsmi": "[CH3:1][C:2](=[O:3])[CH3:4].[H:5][H:6].[H:7][H:8].[Ni:9]>>[CH3:1][C:2]([CH3:4])([H:5])[H:7].[O:3]([H:6])[H:8].[Ni:9]", "epd": [["Sigma-/Sigma+", [2, 3], [2, 5]], ["Pi-/Sigma+", [2, 3], [2, 7]], ["Sigma-/Sigma+", [5, 6], [3, 6]], ["Sigma-/Sigma+", [7, 8], [3, 8]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[CH3:1][C:9]([CH3:2])([CH3:3])[c:27]1[cH:18][cH:30][cH:19][c:28]([C:10]([CH3:4])([CH3:5])[CH3:6])[c:22]1[N:29]1[C:15](=[CH:47][c:48]2[cH:39][cH:16][c:21]([N+:54](=[O:14])[O-:23])[cH:17][cH:40]2)[N:13]([c:24]2[c:34]([C:7]([CH3:41])([CH3:42])[CH3:43])[cH:31][cH:50][cH:32][c:35]2[C:8]([CH3:44])([CH3:45])[CH3:46])[N:53]=[C:38]1[c:20]1[cH:51][cH:25][cH:49][cH:26][cH:52]1.[cH:11]1[cH:12][cH:37][cH:56][cH+:33][cH:55][cH:36]1>>[CH3:1][C:9]([CH3:2])([CH3:3])[c:27]1[cH:18][cH:30][cH:19][c:28]([C:10]([CH3:4])([CH3:5])[CH3:6])[c:22]1-[n:29]1[c:15]([CH:47]([CH:33]2[CH:55]=[CH:36][CH:11]=[CH:12][CH:37]=[CH:56]2)[c:48]2[cH:39][cH:16][c:21]([N+:54](=[O:14])[O-:23])[cH:17][cH:40]2)[n+:13](-[c:24]2[c:34]([C:7]([CH3:41])([CH3:42])[CH3:43])[cH:31][cH:50][cH:32][c:35]2[C:8]([CH3:44])([CH3:45])[CH3:46])[n:53][c:38]1-[c:20]1[cH:51][cH:25][cH:49][cH:26][cH:52]1", "epd": [["LP-/Pi+", [13], [13, 15]], ["Pi-/Sigma+", [15, 47], [33, 47]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:1][C:5](=[C:2]=[N-:10])[c:11]1[cH:13][cH:18][cH:26][cH:19][cH:14]1.[CH3:3][O:4][c:6]1[cH:27][cH:15][c:12]([CH:23]=[C:22]2[CH:24]=[C:7]([Br:20])[C:9](=[O:17])[C:8]([Br:21])=[CH:25]2)[cH:16][cH:28]1>>[CH3:1][C:5]([C:2]#[N:10])([c:11]1[cH:13][cH:18][cH:26][cH:19][cH:14]1)[CH:23]([c:12]1[cH:15][cH:27][c:6]([O:4][CH3:3])[cH:28][cH:16]1)[c:22]1[cH:24][c:7]([Br:20])[c:9]([O-:17])[c:8]([Br:21])[cH:25]1", "epd": [["LP-/Pi+", [10], [2, 10]], ["Pi-/Sigma+", [5, 2], [5, 23]], ["Pi-/Pi+", [23, 22], [22, 24]], ["Pi-/Pi+", [24, 7], [7, 9]], ["Pi-/LP+", [9, 17], [17]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:1]12[c:16]([cH:26][cH:24][cH:38][cH:18]1)-[c:17]1[c:2]([cH:19][cH:39][cH:25][cH:27]1)[N+:37]2=[CH:6][CH3:35].[c:3]1([P:21]([c:4]2[cH:12][cH:31][cH:8][cH:32][cH:13]2)([c:5]2[cH:14][cH:33][cH:9][cH:34][cH:15]2)=[CH:36][C:28]([O:22][CH2:20][CH3:40])=[O:23])[cH:10][cH:29][cH:7][cH:30][cH:11]1>>[c:1]12[c:16]([c:17]3[c:2]([cH:19][cH:39][cH:25][cH:27]3)[n:37]1[CH:6]([CH3:35])[CH:36]([P+:21]([c:3]1[cH:10][cH:29][cH:7][cH:30][cH:11]1)([c:4]1[cH:12][cH:31][cH:8][cH:32][cH:13]1)[c:5]1[cH:14][cH:33][cH:9][cH:34][cH:15]1)[C:28]([O:22][CH2:20][CH3:40])=[O:23])[cH:26][cH:24][cH:38][cH:18]2", "epd": [["Pi-/Sigma+", [36, 21], [36, 6]], ["Pi-/LP+", [6, 37], [37]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[S:1]([c:3]1[cH:17][cH:11][cH:7][cH:12][cH:18]1)([O-:4])=[O:15].[cH:2]1[cH:5][cH:13][c:10]([N+:8](=[CH2:9])[CH3:16])[cH:14][cH:6]1>>[S+:1]([c:3]1[cH:17][cH:11][cH:7][cH:12][cH:18]1)([O-:4])([CH2:9][N:8]([c:10]1[cH:13][cH:5][cH:2][cH:6][cH:14]1)[CH3:16])=[O:15]", "epd": [["LP-/Sigma+", [1], [1, 9]], ["Pi-/LP+", [9, 8], [8]]]}
{"reaction_name": "Addition to isothiocyanates", "rsmi": "[CH3:1][N:3]=[C:5]=[S:4].[CH3:2][S-:6]>>[CH3:1][N:3]=[C:5]([S-:4])[S:6][CH3:2]", "epd": [["LP-/Sigma+", [6], [5, 6]], ["Pi-/LP+", [3, 5], [3]], ["LP-/Pi+", [3], [3, 5]], ["Pi-/LP+", [4, 5], [4]]]}
{"reaction_name": "Phospha-Michael addition", "rsmi": "[O:1]=[N+:41]([O-:9])[c:35]1[cH:2][cH:4][c:10]([CH:36]=[CH:14][N+:33]([O-:40])=[O:42])[cH:5][cH:3]1.[c:6]1([P:34]([c:7]2[cH:16][cH:22][c:38]([N:12]([CH3:29])[CH3:30])[cH:23][cH:17]2)[c:8]2[cH:18][cH:24][c:39]([N:13]([CH3:31])[CH3:32])[cH:25][cH:19]2)[cH:15][cH:21][c:37]([N:11]([CH3:27])[CH3:28])[cH:26][cH:20]1>>[O:1]=[N+:41]([O-:9])[c:35]1[cH:2][cH:4][c:10]([CH:36]([CH:14]=[N+:33]([O-:40])[O-:42])[P+:34]([c:6]2[cH:15][cH:21][c:37]([N:11]([CH3:27])[CH3:28])[cH:26][cH:20]2)([c:7]2[cH:16][cH:22][c:38]([N:12]([CH3:29])[CH3:30])[cH:23][cH:17]2)[c:8]2[cH:18][cH:24][c:39]([N:13]([CH3:31])[CH3:32])[cH:25][cH:19]2)[cH:5][cH:3]1", "epd": [["LP-/Sigma+", [34], [34, 36]], ["Pi-/Pi+", [36, 14], [14, 33]], ["Pi-/LP+", [33, 42], [42]]]}
{"reaction_name": "Truce–Smiles rearrangement", "rsmi": "[cH:1]1[cH:4][c:11]([S:16]([CH-:6][c:3]2[cH:7][cH:12][cH:10][cH:13][cH:8]2)(=[O:14])=[O:15])[cH:5][cH:2][cH:9]1>>[O:14]=[S:16]=[O:15].[cH:1]1[cH:4][c:11]([CH-:6][c:3]2[cH:7][cH:12][cH:10][cH:13][cH:8]2)[cH:5][cH:2][cH:9]1", "epd": [["Sigma-/LP+", [11, 16], [16]], ["Sigma-/Sigma+", [6, 16], [6, 11]]]}
{"reaction_name": "Lactam-forming cyclodehydration", "rsmi": "[CH2:1]([CH2:3][CH2:8][NH:2][H:9])[CH2:7][C:6](=[O:4])[OH:5]>>[CH2:1]1[CH2:3][CH2:8][NH:2][C:6](=[O:4])[CH2:7]1.[OH:5][H:9]", "epd": [["LP-/Sigma+", [2], [2, 6]], ["Pi-/LP+", [4, 6], [4]], ["LP-/Pi+", [4], [4, 6]], ["Sigma-/LP+", [5, 6], [5]], ["LP-/Sigma+", [5], [5, 9]], ["Sigma-/LP+", [2, 9], [2]]]}
